US05849765
Step 2: 1-Benzyl-4-(5-chlorobenzothiazol-2-yl)-1,2,3,6-tetrahydropyridine
4-(5-Chlorobenzothiazol-2-yl)pyridine (1.8 g, 7.3 mmol) was reacted with benzyl bromide (1.3 ml, 10.95 mmol), followed by sodium borohydride (361 mg, 9.5 mmol) as exemplified in Example 7 step 2. The crude product was purified by flash chromatography eluting with 15% ethyl acetate in petroleum ether to give a solid. Recrystallisation from ethyl acetate afforded the title compound as a pale yellow solid (1.63 g, 66%); (Found: C, 66.83; H, 5.00; N, 8.20. C19H17ClN2S requires C, 66.95; H, 5.03; N, 8.22%). δH (CDCl3), 2.76 (4H, m, CH2), 3.24 (2H, m, CH2), 3.67 (2H, s, NCH2Ar), 6.70 (1H, m, NCH2CH), 7.32 (5H, m, ArH), 7.71 (1H, d, J 8.5Hz, ArH), 7.95 (1H, d, J 1.9Hz, ArH). m/z (ES+) 341 (M+1)+.

reactant | 4-(5-Chlorobenzothiazol-2-yl)pyridine | 7.3 mmol, 1.8 g | ClC=1C=CC2=C(N=C(S2)C2=CC=NC=C2)C1 | C12H7ClN2S
reactant | benzyl bromide | 10.95 mmol, 1.3 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium borohydride | 9.5 mmol, 361 mg | [BH4-].[Na+]
product | 1-Benzyl-4-(5-chlorobenzothiazol-2-yl)-1,2,3,6-tetrahydropyridine | 1.63 g, 66% | C(C1=CC=CC=C1)N1CCC(=CC1)C=1SC2=C(N1)C=C(C=C2)Cl | C19H17ClN2S
